US04419357
To a slurry of 78 g of 4,5-methylenedioxy-2-nitrobenzaldehyde and 1.5 liter of water there was added a solution of 90 g of potassium permanganate in 1.5 liter of water over a period of 45 minutes. The mixture was then stirred at 70°-80° C. for an additional hour and then made alkaline with 400 ml of aqueous 10% potassium hydroxide. The mixture was filtered while hot to remove the precipitate which was washed with 2 portions of hot water. The filtrate was cooled for 16 hours and the solid which formed was separated by filtration to give recovered starting material. The new filtrate was acidified with concentrated hydrochloric acid and allowed to stand for 3 hours. The yellow solid which formed was separated by filtration to give crude product. The filtrate obtained was extracted with 4 portions of ethyl acetate and the combined extracts were dried over sodium sulfate and added to a solution of the previously obtained crude product in ethyl acetate. The ethyl acetate solution was concentrated, the resulting solid was slurried with chloroform, separated by filtration and dried to give 4,5-methylenedioxy-2-nitrobenzoic acid melting at about 160°-163° C.

reactant | 4,5-methylenedioxy-2-nitrobenzaldehyde | 78 g | C1OC2=CC(=C(C=O)C=C2O1)[N+](=O)[O-] | C8H5NO5
reactant | potassium permanganate | 90 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | 1.5 liter | O | H2O
solvent | water | 1.5 liter | O | H2O
product | 4,5-methylenedioxy-2-nitrobenzoic acid | C1OC2=CC(=C(C(=O)O)C=C2O1)[N+](=O)[O-] | C8H5NO6
